US05142082
In a 100 ml three-neck flask provided with a magnetic stirrer and a reflux condenser were charged 25.0 g (0.131 mole) of cyclopentyl trimethoxysilane, 9.74 g (0.131 mole) of tert.-butyl alcohol and 20 mg (0.18 m mole) of potassium tert.-butoxide, which were then reacted with each other by heating under stirring in an oil both of 80° C. for 10 hours. After cooled, ammonium chloride was added to neutralize the alkali. Then, tert.-butoxy cyclopentyl dimethoxysilane of 6.25 g (0.0269 mole) was obtained by vacuum distillation. Its structure was confirmed as in Example 1. The yield was 21%.

reactant | cyclopentyl trimethoxysilane | 0.131 mole, 25.0 g | C1(CCCC1)[Si](OC)(OC)OC | C8H18O3Si
reactant | tert.-butyl alcohol | 0.131 mole, 9.74 g | C(C)(C)(C)O | C4H10O
reactant | potassium tert.-butoxide | 20 mg | CC(C)([O-])C.[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
product | tert.-butoxy cyclopentyl dimethoxysilane | yield was 21% | C(C)(C)(C)O[Si](OC)(OC)C1CCCC1 | C11H24O3Si
